US04725602
A 16.7 g (0.19 mole) sample of oxalyl chloride was added dropwise at 0° C. to a solution of 50.0 g (0.17 mole) of 2-iodo-5-methoxybenzeneacetic acid in 310 ml dry toluene and 31.7 ml of DMF. The mixture was allowed to warm to room temperature and stir for 16 hours. The solution was cooled to 0° C. and dimethylamine gas was admitted until the mixture was strongly basic. The mixture was allowed to warm to room temperature and stir for three hours and methylene chloride was added. The organic layer was washed with water, dilute hydrochloric acid, and sodium hydroxide. The organic layer was dried with MgSO4 and evaporated in vacuo to give 54.2 g of N,N-dimethyl-2-iodo-5-methoxybenzeneacetamide, mp 86°-89° C.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-iodo-5-methoxybenzeneacetic acid | 0.17 mole, 50.0 g | IC1=C(C=C(C=C1)OC)CC(=O)O | C9H9IO3
reactant | dimethylamine | CNC | C2H7N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 310 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 31.7 ml | CN(C)C=O | C3H7NO
product | N,N-dimethyl-2-iodo-5-methoxybenzeneacetamide | 54.2 g | CN(C(CC1=C(C=CC(=C1)OC)I)=O)C | C11H14INO2
